US05958870
To a mixture of N,N-bis(2-methoxy-2-oxoethyl)glycine methyl ester (7.0 g, 30 mmol, 1 eq) in toluene (80 ml) under argon was slowly added some sodium methoxide (0.49 g, 0.009 mol, 3*0.10 eq) and geraniol (14.57 g, 95 mmol, 3*1.05 eq). The mixture was heated under vacuum (10 mm Hg) and the methanol produced by the transesterification reaction is distilled with toluene over two hours after which the reaction appeared completed by 1H NMR. Any remaining toluene is evaporated under vacuum. Diethyl ether was added (200 ml) and the mixture stored at 4° C. for one hour prior to filtration. The filtrate was then concentrated under vacuum yielding to the expected N,N-bis(2-geranyloxy-2-oxoethyl)glycine geranyl ester as a yellow oil (quantitative yield).

reactant | N,N-bis(2-methoxy-2-oxoethyl)glycine methyl ester | 30 mmol, 7.0 g, 1 eq | COC(CN(CC(OC)=O)CC(=O)OC)=O | C9H15NO6
reactant | sodium methoxide | 0.009 mol, 0.49 g, 0.10 eq | C[O-].[Na+]
reactant | geraniol | 95 mmol, 14.57 g, 1.05 eq | CC(C)=CCC\C(\C)=C\CO | C10H18O
reactant | methanol | CO | CH4O
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | N,N-bis(2-geranyloxy-2-oxoethyl)glycine geranyl ester | quantitative yield | C(\C=C(/C)\CCC=C(C)C)OC(CN(CC(OC\C=C(/C)\CCC=C(C)C)=O)CC(=O)OC\C=C(/C)\CCC=C(C)C)=O | C36H57NO6
